US06608195B2
2-(4-Methyl-1-piperazinyl)benzaldehyde hydrochloride
2-(4-Methyl-1-piperazinyl)benzaldehyde (7.8 g, 38 mmol) was dissolved in 0.1% aqueous isopropanol (62 mL) at 20-25° C. under a nitrogen atmosphere and then 2.8 mL (40 mmol) of neat acetyl chloride was slowly added. The resulting slurry was cooled to 0-5° C., granulated for 1 hour, and then filtered. The cake was washed with cold (0-5° C.) isopropanol (8 mL) followed by hexanes (16 mL) and then dried in vacuo at 25-30° C. The title compound (7.9 g, 83% yield) was obtained as a light yellow solid. If desired, the title compound can be recrystallized from refluxing isopropanol (6 L/kg of solid) to afford rod-like crystals (mp 225-226° C.) which were recovered in 93% yield. 1H NMR (CDCl3) δ 12.3 (s, 1H), 10.1 (s, 1H), 7.71 (m, 1H), 7.69 (m, 1H), 7.15 (m, 1H), 7.05 (m, 1H), 3.62 (m, 2H), 3.51 (m 2H), 3.26 (m, 4H), and 2.86 (s, 3H). 13C NMR (CDCl3) δ 191.24, 152.24, 135.70, 134.30, 128.55, 124.03, 119.75, 54.00, 49.94 and 43.74. Anal. Calcd for C12H16N2O HCl: C, 59.87; H, 7.12; N, 11.64. Found: C, 59.98; H, 7.23; N, 11.65.

reactant | 2-(4-Methyl-1-piperazinyl)benzaldehyde | 38 mmol, 7.8 g | CN1CCN(CC1)C1=C(C=O)C=CC=C1 | C12H16N2O
reactant | acetyl chloride | 40 mmol, 2.8 mL | C(C)(=O)Cl | C2H3ClO
solvent | isopropanol | 62 mL | C(C)(C)O | C3H8O
product | 2-(4-Methyl-1-piperazinyl)benzaldehyde hydrochloride | 7.9 g, 83% yield | Cl.CN1CCN(CC1)C1=C(C=O)C=CC=C1 | InChI=1S/C12H16N2O.ClH/c1-13-6-8-14(9-7-13)12-5-3-2-4-11(12)10-15;/h2-5,10H,6-9H2,1H3;1H
